US08609647B2
(11) Optically-Active Compound of 6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.5]nonane-1-carboxylic acid benzyl ester
An optically-active compound of 1,6-diazaspiro[3.5]nonane-1-carboxylic acid benzyl ester (2.37 g) was mixed with 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (1.4 g), potassium carbonate (3.8 g) and water (71 ml), and heated to 100° C. to stir for 3 hours. The mixture was cooled to room temperature. Then, thereto was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and concentrated under reduced pressure. The resulting residue was slurry-washed with n-hexane/ethyl acetate (1/1) solution to give the titled compound (2.55 g).

reactant | 1,6-diazaspiro[3.5]nonane-1-carboxylic acid benzyl ester | 2.37 g | C(C1=CC=CC=C1)OC(=O)N1CCC12CNCCC2 | C15H20N2O2
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 1.4 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | water | 71 ml | O | H2O
product | 6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.5]nonane-1-carboxylic acid benzyl ester | 2.55 g | C(C1=CC=CC=C1)OC(=O)N1CCC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C21H23N5O2
